US06211215B1
In substantially the same manner as in Working Example 1, 6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]hexanol was allowed to react with 1,2,4-triazole to give 1-[6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]hexyl]-1,2,4-triazole. The yield was 65%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 90-91° C.

reactant | 6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]hexanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCCCO | C24H27NO3
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 1-[6-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]hexyl]-1,2,4-triazole | yield was 65% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCCCN1N=CN=C1 | C26H28N4O2
